US08669271B2
4-[5-(5-Cyano-3-methyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
A mixture of 4-[5-(5-bromo-3-methyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester (26 mg), zinc cyanide (7.3 mg), and 1,1′-bis(diphenylphosphino)-ferrocene (3.2 mg) in N,N-dimethylformamide (0.5 mL) is sparged with argon for 5 min. Tris(dibenzylideneacetone)dipalladium (2.6 mg) is added and the resulting mixture is stirred at 120° C. for 3 h. After cooling to room temperature, dichloromethane is added and the mixture is extracted with aqueous K2CO3 solution (10%). The organic phase is washed with brine, dried (MgSO4), and the solvent is evaporated. The residue is chromatographed on silica gel (dichloromethane/methanol 95:5) to give the title compound. Yield: 12 mg (52% of theory); LC (method 2): tR=1.49 min; Mass spectrum (ESI+): m/z=406 [M+H]+.

reactant | 4-[5-(5-bromo-3-methyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | 26 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=NC=C(C=C2C)Br | C23H27BrN2O3
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 7.3 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 3.2 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-[5-(5-Cyano-3-methyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=NC=C(C=C2C)C#N | C24H27N3O3
